US06831162B2
Thin glass plated (20×20 cm) coated (0.4 mm to 0.5 mm thick) with silica gel G (Kieselgel G nach Stahl; E. Merck) were activated at 100° C. for half an hour. The solution containing the isolated substance was applied 1 cm above the edge of the plates were run in an organic solvent mixture of n-butanol and acetic acid and water. It should be n-butanol acetic acid and water (12:5:2). The developed plates were dried at room temperature and sprayed with 0.25% nin-hydrin in acetone. The nin-hydrin positive spots (R=0.19) of the isolate nearly corresponding to insulin were collected from about 200 unsprayed plates along with the silica gel G and extracted with 50% ethanol buffered with ammonium hydroxide/10% formic acid. The extract was filtered and dried in vacuo. Pure colorless crystals thus obtained were weighed (3 g/100 gram dry weight of seeds).

reactant | n-butanol | C(CCC)O | C4H10O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | n-butanol acetic acid | C(C)(=O)O.C(CCC)O
solvent | water | O | H2O
product | nin-hydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
